US08609696B2
To a stirred solution of oxalyl chloride (92 μL, 1.07 mmol) in DCM (2 mL) at −78° C. is added dropwise a solution of dimethyl sulfoxide (0.15 mL, 2.16 mmol) in DCM (2 mL). After 15 mins a solution of (1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidin-4-yl)methanol (0.26 g, 0.79 mmol) in DCM (2 mL) is added dropwise. After another 15 mins, triethylamine (0.425 mL, 3.04 mmol) is added and the reaction is allowed to warm to room temperature. Stirring is continued for 18 h. The mixture is diluted with water and extracted with DCM. The organic layers are combined, dried over Na2SO4, filtered and concentrated under reduced pressure to give 0.26 g (99%) of 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carbaldehyde. m/z=331.

reactant | oxalyl chloride | 1.07 mmol, 92 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 2.16 mmol, 0.15 mL | CS(=O)C | C2H6OS
reactant | (1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidin-4-yl)methanol | 0.79 mmol, 0.26 g | N1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CO | C17H20N2O3S
reactant | triethylamine | 3.04 mmol, 0.425 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carbaldehyde | 0.26 g, 99% | N1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C=O | C17H18N2O3S
